US05144034
To a stirred solution of 2-amino-6-chloro-9H-purine (4.0 g, 23.7 mmol) in dry dimethylsulfoxide (40 mL) at room temperature under N2 is added tetrakis(triphenylphosphine)palladium(O) (0.27 g, 0.23 mmol) and the mixture is stirred for 2 minutes. The solution is cooled to 0° C. and a solution of 6-oxa-bicyclo[3.1.0]hex-2-ene (2.1 g, 25.6 mmol) in dry tetrahydrofuran (20 mL) is added over 15 minutes. The resulting yellow solution is allowed to warm to ambient temperature (about 15°-30° C.) over 3 hours and stirred overnight (about 16 h). The clear, yellow solution is evaporated to a viscous oil which is taken up in dichloromethane (50 mL) and filtered through a small pad of Celite (trademark of Manville Products Corp. for infusorial earth filter aid). The solvent is evaporated and the residue is purified by silica gel chromatography using i) ethyl acetate followed by ii) 10:1 ethyl acetate:methanol as eluent to give cis-(±)-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclo-penten-1-ol as a white solid, 5.14 g (86%). M.pt. 160°-162° C. 1H nmr: δ7.83 (s, 1H), 6.34 (dt, J1 =5.5 Hz, J2 =2 Hz, 1H), 5.85 (dd, J1 =5.5 Hz, 1H), 5.34 (d, J=10 Hz, 1H), 5.26 (dq, J1 =9 Hz, J2 =2 Hz, 1H), 5.12 (br s, 2H), 4.85 (br t, J=9 Hz, 1H), 2.97 (ddd, J1 =15 Hz, J2 =9 Hz, J3 =7 Hz, 1H), 2.13 (br d, J=15 Hz, 1H).

reactant | 2-amino-6-chloro-9H-purine | 23.7 mmol, 4.0 g | NC1=NC(=C2N=CNC2=N1)Cl | C5H4ClN5
reactant | 6-oxa-bicyclo[3.1.0]hex-2-ene | 25.6 mmol, 2.1 g | C12C=CCC2O1 | C5H6O
solvent | dimethylsulfoxide | 40 mL | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(O) | 0.23 mmol, 0.27 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | cis-(±)-4-(2-amino-6-chloro-9H-purin-9-yl)-2-cyclo-penten-1-ol | NC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)O)Cl | C10H10ClN5O
